### PR TITLE
chore: generalise real interpolation theorem from `ENormedAddCommMonoid` to `ContinuousENorm`

### PR DESCRIPTION
**Pull request by jim-portegies**
Most locations only need a seminorm, and commutativity seems irrelevant overall.
As a summary, the assumptions in the real interpolation theorem has changed as follows:

```diff
-    [TopologicalSpace E₁] [ENormedAddCommMonoid E₁]
-    [TopologicalSpace E₂] [ENormedAddCommMonoid E₂]
+    [TopologicalSpace E₁] [ESeminormedAddMonoid E₁]
+    [TopologicalSpace E₂] [ContinuousENorm E₂]
```

In return, some proofs have to be tweaked slightly: instead talking about the support of `f`, we talk about the support of its enorm. Apart from that, the proof mostly just goes through.

### CODE REVIEW

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 1]
```diff
@@ -377,8 +381,10 @@ variable {α α' E E₁ E₂ E₃ : Type*} {m : MeasurableSpace α} {m' : Measur
 -/
 namespace MeasureTheory
 
-variable {ε₁ ε₂ : Type*} [TopologicalSpace ε₁] [ESeminormedAddMonoid ε₁] [TopologicalSpace ε₂] [ESeminormedAddMonoid ε₂]
+variable {ε₁ ε₂ : Type*} [TopologicalSpace ε₁] [ESeminormedAddMonoid ε₁]
+[ENorm ε₂]
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]:
```suggestion
variable {ε₁ ε₂ : Type*} [TopologicalSpace ε₁] [ESeminormedAddMonoid ε₁] [ENorm ε₂]
```

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 2]
```diff
@@ -681,14 +687,14 @@ lemma support_sigma_finite_of_lintegrable {g : α → ℝ≥0∞} (hg : AEMeasur
     use (finite_spanning_sets_from_lintegrable hg hg_int)
 
 lemma support_sigma_finite_from_MemLp
-    [TopologicalSpace E₁] [ENormedAddCommMonoid E₁]
+    [TopologicalSpace E₁] [ESeminormedAddMonoid E₁]
     (hf : MemLp f p μ) (hp : p ≠ ⊤) (hp' : p ≠ 0) :
-    SigmaFinite (μ.restrict f.support) := by
+    SigmaFinite (μ.restrict (fun x ↦ ‖f x‖ₑ).support) := by
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean:681]: Note to self: update the PR description to mention this.

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 3]
```diff
@@ -987,19 +994,20 @@ lemma exists_hasStrongType_real_interpolation_aux₀ {p₀ p₁ q₀ q₁ p q :
   have q₀pos : 0 < q₀ := pos_of_rb_Ioc hp₀
   have q₁pos : 0 < q₁ := pos_of_rb_Ioc hp₁
   have q_pos : 0 < q := interpolated_pos' q₀pos q₁pos (ne_top_of_Ioo ht) hq
-  have f_ae_0 : f =ᵐ[μ] 0 := (eLpNorm_eq_zero_iff hf.1 p_pos.ne').mp hF
-  have hf₂ : eLpNorm f p₀ μ = 0 := (eLpNorm_eq_zero_iff hf.1 hp₀.1.ne').mpr f_ae_0
+  have hf₂ : eLpNorm f p₀ μ = 0 := by
+    apply eLpNorm_eq_zero_of_eLpNorm_eq_zero hf.1 p_pos.ne' hF
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: Can this be `exact` or a proof term?

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 4]
```diff
@@ -987,19 +994,20 @@ lemma exists_hasStrongType_real_interpolation_aux₀ {p₀ p₁ q₀ q₁ p q :
...
   have hf₁ : MemLp f p₀ μ := ⟨hf.1, by rw [hf₂]; exact zero_lt_top⟩
   have := (h₀T f hf₁).2
   rw [hf₂, mul_zero] at this
   have wnorm_0 : wnorm (T f) q₀ ν = 0 := nonpos_iff_eq_zero.mp this
-  have : (T f) =ᵐ[ν] 0 := (wnorm_eq_zero_iff q₀pos.ne').mp wnorm_0
-  exact (eLpNorm_eq_zero_iff (h₂T hf) q_pos.ne').mpr this
+  have : (fun y ↦ ‖(T f) y‖ₑ) =ᵐ[ν] 0 := (wnorm_eq_zero_iff q₀pos.ne').mp wnorm_0
+  rwa [← eLpNorm_enorm, eLpNorm_eq_zero_iff _ q_pos.ne']
+  have := h₂T hf; fun_prop
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean:990]: note to self: look at this in the infoview

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 5]
```diff
@@ -718,24 +718,27 @@ lemma estimate_eLpNorm_truncCompl {p q : ℝ≥0∞}
...
+    (hq : q ≠ ⊤) (hpq : p ∈ Ioc 0 q) {f : α → ε} (hf : AEStronglyMeasurable f μ) :
     eLpNorm (trunc f t) q μ ^ q.toReal ≤
     (t ^ (q.toReal - p.toReal)) * eLpNorm f p μ ^ p.toReal := by
   have hq' : 0 < q := hpq.1.trans_le hpq.2
   have p_ne_top : p ≠ ∞ := (hpq.2.trans_lt (lt_top_iff_ne_top.mpr hq)).ne
   by_cases ht : t = ⊤
   · by_cases hf' : eLpNorm f p μ ^ p.toReal = 0
-    · have : f =ᵐ[μ] 0 := by
-        rw [← eLpNorm_eq_zero_iff hf]
+    · have : (fun x ↦ ‖f x‖ₑ ) =ᵐ[μ] 0 := by
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean]:
```suggestion
    · have : (fun x ↦ ‖f x‖ₑ) =ᵐ[μ] 0 := by
```

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 6]
```diff
@@ -718,24 +718,27 @@ lemma estimate_eLpNorm_truncCompl {p q : ℝ≥0∞}
 
 -- TODO: better name!
 lemma estimate_eLpNorm_trunc {p q : ℝ≥0∞}
-    (hq : q ≠ ⊤) (hpq : p ∈ Ioc 0 q) {f : α → ε'} (hf : AEStronglyMeasurable f μ) :
+    (hq : q ≠ ⊤) (hpq : p ∈ Ioc 0 q) {f : α → ε} (hf : AEStronglyMeasurable f μ) :
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean:727]: TODO to self: check if epsilon and epsilon' have different typeclass assumptions (or if we still need epsilon')

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 7]
```diff
@@ -718,24 +718,27 @@ lemma estimate_eLpNorm_truncCompl {p q : ℝ≥0∞}
...
     (t ^ (q.toReal - p.toReal)) * eLpNorm f p μ ^ p.toReal := by
   have hq' : 0 < q := hpq.1.trans_le hpq.2
   have p_ne_top : p ≠ ∞ := (hpq.2.trans_lt (lt_top_iff_ne_top.mpr hq)).ne
   by_cases ht : t = ⊤
   · by_cases hf' : eLpNorm f p μ ^ p.toReal = 0
-    · have : f =ᵐ[μ] 0 := by
-        rw [← eLpNorm_eq_zero_iff hf]
+    · have : (fun x ↦ ‖f x‖ₑ ) =ᵐ[μ] 0 := by
+        rw [← eLpNorm_enorm] at hf'
+        have hf_norm : AEStronglyMeasurable (fun x ↦ ‖f x‖ₑ ) μ := by
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean]:
```suggestion
        have hf_norm : AEStronglyMeasurable (fun x ↦ ‖f x‖ₑ) μ := by
```

**Review by grunweg — COMMENTED** [review]
Here is some progress from reviewing --- not complete yet, but let me post it already (rather than github eating my comments).

**Comment by grunweg** [comment]
I finally finished reviewing the change: I had only minor comments (and just pushed those directly).
If you agree with my summary of this PR, feel free to merge it (or tell me to, I don't know if you can push the button).

Thanks again for doing this, and all your help with getting the paper over the line!

**Review by fpvandoorn — APPROVED** [review]
Thanks, this is nice!

**Comment by grunweg** [comment]
Let me merge this. Thanks again!
